US04542148
13.1 3-Methyl-3-phenyl-5-chlorooxindole
10 g of 3-phenyl-5-chlorooxindole were dissolved in 100 ml of acetone and 20 ml of water, 2.9 g of potassium carbonate and 2.9 ml of methyl iodide were added and the mixture was warmed at 50° C. for 3 hours and concentrated; water was added to the residue, which was extracted with ethyl acetate, and the extract was dried over magnesium sulfate, and the solvent was removed. The residue was recrystallized from ethanol. Melting point 180°-181° C.

reactant | 3-phenyl-5-chlorooxindole | 10 g | C1(=CC=CC=C1)C1C(NC2=CC=C(C=C12)Cl)=O | C14H10ClNO
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.9 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 3-Methyl-3-phenyl-5-chlorooxindole | CC1(C(NC2=CC=C(C=C12)Cl)=O)C1=CC=CC=C1 | C15H12ClNO
